US07105544B2
N-{5-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE
Example 104 was prepared from bis(4-fluorophenyl)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.33–8.14 (m, 1H), 7.89–7.67 (br, 1H), 7.51–6.60 (m, 10H), 4.98–4.79 (br, 1H), 4.75 (s, 1H), 3.46–3.29 (m, 2H), 3.29–3.08 (m, 2H), 2.79–2.63 (m, 2H), 2.63–2.46 (m, 1H), 2.46–2.21 (m, 4H), 1.97–1.60 (m, 8H), 1.01 (t, 3H, J=7.2 Hz); ESMS m/e: 552.3 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-{5-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F)C1=CC=C(C=C1)F | C32H36F3N3O2
